US07244725B2
B.5. Benzyl 6-neopentyl-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate
Benzyl 6-bromo-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate (3.10 g) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)dichloromethane adduct (0.35 g) were combined in a round bottom flask. The mixture was put under high vacuum and purged with nitrogen. A 0.5 M solution of bromo(neopentyl)zinc (55 mL) prepared using the procedure of Negishi et al. Tet Lett. 1983, 24, 3823–3824, was added to the mixture and was stirred at room temperature for two days. The reaction had not gone to completion, so an additional 10 mL of bromo(neopentyl)zinc solution was added and the mixture was stirred for one additional day. The mixture was then partitioned between ethyl acetate and aqueous ammonium chloride, dried with magnesium sulfate, filtered, and concentrated. Silica gel chromatography using a 20% ethyl acetate in heptane solvent solution gave 2.17 g of the title compound. MS (ESI+) for C22H25NO3 m/z 353.17 (M+H)+.

reactant | Benzyl 6-bromo-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 3.10 g | BrC=1C=C2C(CCN(C2=CC1)C(=O)OCC1=CC=CC=C1)=O | C17H14BrNO3
reactant | bromo(neopentyl)zinc | 10 mL | Br[Zn]CC(C)(C)C
product | Benzyl 6-neopentyl-4-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 2.17 g | C(C(C)(C)C)C=1C=C2C(CCN(C2=CC1)C(=O)OCC1=CC=CC=C1)=O | C22H25NO3
